US07910588B2
Add 4 M HCl in 1,4-dioxane (10 mL) to 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester (6.80 g, 22.76 mmol). Add 1,4-dioxane (40 mL) and subject the reaction to ultrasound then stir at room temperature under nitrogen for 3 hr. Add further HCl in 1,4-dioxane (40 mL) and stir for 1 hr. Add chloroform (400 mL), wash with 2 N sodium hydroxide (200 mL), saturated aqueous sodium chloride (100 mL), dry (magnesium sulfate) and concentrate to give 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl as a yellow oil which crystallized on standing to give a solid (4.0 g, 88%). MS (m/z): 199.1 (M+1).

reactant | HCl | 4 M | Cl | ClH
reactant | 3′-chloro-2,3,5,6-tetrahydro-[1,2′]bipyrazinyl-4-carboxylic acid t-butyl ester | 22.76 mmol, 6.80 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=NC=CN=C1Cl | C13H19ClN4O2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 40 mL | O1CCOCC1 | C4H8O2
product | 3′-chloro-3,4,5,6-tetrahydro-2H-[1,2′]bipyrazinyl | ClC=1C(=NC=CN1)N1CCNCC1 | C8H11ClN4
